US09302991B2
<Step-1>:3-bromo-6-(2,2-difluoroethoxy)-2-methylpyridine
To a mixture of 3,6-dibromo-2-methylpyridine (2.00 g, 7.97 mmol) and 2,2-difluoroethanol (981 mg, 12.0 mmol) in THF (100 mL) is added potassium tert-butoxide (1.34 g, 12.0 mmol), and the mixture is stirred at 70° C. for 12 hours. After cooling to room temperature, the resulting mixture is poured to water (200 mL). The aqueous layer is extracted with ethyl acetate (200 mL×2). The organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (8:1) to give 1.94 g (97% yield) of the title compound as colorless oil.

reactant | 3,6-dibromo-2-methylpyridine | 7.97 mmol, 2.00 g | BrC=1C(=NC(=CC1)Br)C | C6H5Br2N
reactant | 2,2-difluoroethanol | 12.0 mmol, 981 mg | FC(CO)F | C2H4F2O
reactant | potassium tert-butoxide | 12.0 mmol, 1.34 g | CC(C)([O-])C.[K+]
reactant | water | 200 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-bromo-6-(2,2-difluoroethoxy)-2-methylpyridine | 1.94 g, 97% yield | BrC=1C(=NC(=CC1)OCC(F)F)C | C8H8BrF2NO
